US09352049B2
To (S)-4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-5-tert-butoxy-5-oxopentanoic acid (721 mg, 1.69 mmol), tert-butyl 2-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)ethylcarbamate (595 mg, 2.04 mmol), and N,N-diisopropylethylamine (0.9 mL, 5.2 mmol) in THF (20 mL), N,N,N′,N′-tetramethyl-O-(1H-benzotriazol-1-yl)uroniumhexafluorophosphate (1.29 g, 3.40 mmol) was added in one portion. The reaction was stirred at ambient temperature for 16 hours. After this time, the reaction was dry loaded onto silica and purified by silica gel column chromatography eluting with hexanes to ethyl acetate to afford (S)-tert-butyl 1-(9H-fluoren-9-yl)-24,24-dimethyl-3,8,22-trioxo-2,12,15,18,23-pentaoxa-4,9,21-triazapentacosane-5-carboxylate (1.17 g, 99%) as an off-white solid: 1H NMR (300 MHz, CDCl3) δ 7.77 (d, J=7.5 Hz, 2H), 7.62-7.59 (m, 2H), 7.44-7.38 (m, 2H), 7.36-7.26 (m, 2H), 6.78 (bs, 1H), 6.07 (bs, 2H), 5.77 (bs, 1H), 4.42-4.38 (m, 2H), 4.27-4.17 (m, 2H), 3.80-3.70 (m, 2H), 3.68-3.46 (m, 9H), 3.31-3.12 (m, 4H), 2.37-2.13 (m, 3H), 2.00-1.87 (m, 1H), 1.47 (s, 9H), 1.45 (s, 9H); ESI MS m/z=700 [M+H]+.

reactant | (S)-4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-5-tert-butoxy-5-oxopentanoic acid | 1.69 mmol, 721 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCC(=O)O)C(=O)OC(C)(C)C | C24H27NO6
reactant | tert-butyl 2-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)ethylcarbamate | 2.04 mmol, 595 mg | NCCOCCOCCOCCNC(OC(C)(C)C)=O | C13H28N2O5
reactant | N,N-diisopropylethylamine | 5.2 mmol, 0.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N,N′,N′-tetramethyl-O-(1H-benzotriazol-1-yl)uroniumhexafluorophosphate | 3.40 mmol, 1.29 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1C=CC=C2)N(C)C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(9H-fluoren-9-yl)-24,24-dimethyl-3,8,22-trioxo-2,12,15,18,23-pentaoxa-4,9,21-triazapentacosane-5-carboxylate | 1.17 g, 99% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CCC(NCCOCCOCCOCCNC(OC(C)(C)C)=O)=O)C(=O)OC(C)(C)C)=O | C37H53N3O10
